************************************************************************
* auCdl Netlist:
* 
* Library Name:  lab4
* Top Cell Name: FA
* View Name:     schematic
* Netlisted on:  Dec  2 00:23:39 2025
************************************************************************

.INCLUDE  /CMC/kits/cmosp18.6.13a_ic6/tsmc18/../Calibre/lvs/source.added
*.EQUATION
*.LDD
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: lab4
* Cell Name:    NAND2
* View Name:    schematic
************************************************************************

.SUBCKT NAND2 A B OUT VDD VSS
*.PININFO A:I B:I OUT:O VDD:B VSS:B
MM1 net2 B VSS VSS N l=180.0n w=WnB m=1
MM0 OUT A net2 VSS N l=180.0n w=WnA m=1
MM3 OUT B VDD VDD P l=180.0n w=WpB m=1
MM2 OUT A VDD VDD P l=180.0n w=WpA m=1
.ENDS

************************************************************************
* Library Name: lab4
* Cell Name:    FA
* View Name:    schematic
************************************************************************

.SUBCKT FA A B C Co S VDD VSS
*.PININFO A:I B:I C:I Co:O S:O VDD:B VSS:B
XI8 net6 net1 Co VDD VSS / NAND2 WpA=2u WpB=2u WnA=2u WnB=2u
XI7 net5 C net6 VDD VSS / NAND2 WpA=2u WpB=2u WnA=2u WnB=2u
XI6 net9 net7 S VDD VSS / NAND2 WpA=2u WpB=2u WnA=2u WnB=2u
XI5 net5 net6 net9 VDD VSS / NAND2 WpA=2u WpB=2u WnA=2u WnB=2u
XI4 net6 C net7 VDD VSS / NAND2 WpA=2u WpB=2u WnA=2u WnB=2u
XI3 net3 net4 net5 VDD VSS / NAND2 WpA=2u WpB=2u WnA=2u WnB=2u
XI2 net1 B net4 VDD VSS / NAND2 WpA=2u WpB=2u WnA=2u WnB=2u
XI1 A net1 net3 VDD VSS / NAND2 WpA=2u WpB=2u WnA=2u WnB=2u
XI0 A B net1 VDD VSS / NAND2 WpA=2u WpB=2u WnA=2u WnB=2u
.ENDS

